US07618979B2
Step 4 methyl 1-(methylthio)-8-oxo-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizine-7-carboxylate
To a suspension of methyl 4-(methylthio)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate (0.30 g, 1.35 mmol) in TBF (3 mL)-toluene (12.0 mL) were added a 1.06 M THE solution of potassium tert-butoxide (1.42 mL/1.41 mmol) and methyl acrylate (300 μL). The resulting mixture was heated at 80° C. for 18 h. The mixture was partitioned between EtOAc and NH4Cl, filtered through celite. The organic phase was separated, dried over Na2SO4 and filtered, to provide the title compound.

reactant | methyl 4-(methylthio)-1H-pyrrolo[3,2-c]pyridine-2-carboxylate | 1.35 mmol, 0.30 g | CSC1=NC=CC2=C1C=C(N2)C(=O)OC | C10H10N2O2S
reactant | potassium tert-butoxide | 1.41 mmol, 1.42 mL | CC(C)([O-])C.[K+]
reactant | methyl acrylate | 300 μL | C(C=C)(=O)OC | C4H6O2
solvent | toluene | 12.0 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 1-(methylthio)-8-oxo-7,8-dihydro-6H-pyrido[3,4-b]pyrrolizine-7-carboxylate | CSC1=NC=CC2=C1C=C1C(C(CN21)C(=O)OC)=O | C13H12N2O3S
